US09085578B2
2-(2-chloropyridin-4-yl)-1-(morpholin-4-yl)ethanone
A solution of (2-chloropyridin-4-yl)acetic acid (300 mg), 1-hydroxybenzotriazole (284 mg), triethylamine (0.487 mL), morpholine (0.183 mL) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (469 mg) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 18 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (239 mg).

reactant | (2-chloropyridin-4-yl)acetic acid | 300 mg | ClC1=NC=CC(=C1)CC(=O)O | C7H6ClNO2
reactant | 1-hydroxybenzotriazole | 284 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | morpholine | 0.183 mL | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 469 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.487 mL | C(C)N(CC)CC | C6H15N
product | 2-(2-chloropyridin-4-yl)-1-(morpholin-4-yl)ethanone | 239 mg | ClC1=NC=CC(=C1)CC(=O)N1CCOCC1 | C11H13ClN2O2
